US04029594
A mixture of 3.04 parts of 4-hydroxy-2-methylbenzoic acid, 8.57 parts of hexanoic anhydride, one drop of concentrated sulfuric acid and 3 parts by volume of benzene were refluxed for 15 minutes when the mixture was poured over ice and stirred for 10 minutes. The mixture was extracted three times with 100 parts by volume of chloroform. The combined extracts were dried over magnesium sulfate and the solvent evaporated to obtain 4-hexanoyloxy-2-methylbenzoic acid.

reactant | 4-hydroxy-2-methylbenzoic acid | OC1=CC(=C(C(=O)O)C=C1)C | C8H8O3
reactant | hexanoic anhydride | C(CCCCC)(=O)OC(CCCCC)=O | C12H22O3
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-hexanoyloxy-2-methylbenzoic acid | C(CCCCC)(=O)OC1=CC(=C(C(=O)O)C=C1)C | C14H18O4
